data/oMe_Silver.jsonl
{"reaction_id": "NR-223_1-C(F)(F)F_2-C(C)(C)C_3-C(C)C_4-c1ccccc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(C(F)(F)F)(C(C)(C)C)(O)C(O)(C(C)C)(c1ccccc1)"],"products_smiles": ["C(=O)(C(F)(F)F)C(C(C)(C)C)(C(C)C)(c1ccccc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(C(C)(C)C)(O)C([OH2+])(C(C)C)(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(C(F)(F)F)(C(C)(C)C)(O)[C+](C(C)C)(c1ccccc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(C(F)(F)F)C(C(C)(C)C)(C(C)C)(c1ccccc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-122_1-C#N_2-C(=O)C(F)(F)F_3-c1ccc(OC)cc1_4-c1occc1","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(c1ccc(OC)cc1)c1occc1","C(C#N)C(=O)C(F)(F)F"],"products_smiles": ["C(=C(C#N)C(=O)C(F)(F)F)(c1ccc(OC)cc1)c1occc1"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(c1ccc(OC)cc1)c1occc1","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C#N)C(=O)C(F)(F)F","rationale": "The basic nitrogen abstracts an acidic α-proton from C#N–C(=O)C(F)(F)F methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(c1ccc(OC)cc1)c1occc1)(C#N)C(=O)C(F)(F)F","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(c1ccc(OC)cc1)c1occc1)(C#N)C(=O)C(F)(F)F","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C#N)C(=O)C(F)(F)F)(c1ccc(OC)cc1)c1occc1","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
